US04885363
100mM of calcium (II) (1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane) was prepared by mixing equal volumes of 200mM of calcium chloride and 200mM of 1,4,7,-triscarboxymethyl-1,4,7,10-tetraazacyclododecane. One and one-half ml of the solution was adjusted to pH 8.8 with dilute sodium hydroxide and 150 μl of 0.88% stannous chloride was added and mixed. Technetium-99m was added to obtain a final concentration of 20 μCi/ml and the solution was adjusted to pH 3. The solution was heated at 88° C. for 20 minutes, cooled, and adjusted to pH 7. After adjusting to a volume of 3 ml, it was passed through a 0.22 μ filter.

reactant | calcium chloride | 200mM | [Cl-].[Ca+2].[Cl-]
reactant | 1,4,7,-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 200mM | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | Technetium-99m | [99Tc] | Tc
product | calcium (II) (1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane) | 100mM | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O.[Ca+2] | InChI=1S/C14H26N4O6.Ca/c19-12(20)9-16-3-1-15-2-4-17(10-13(21)22)6-8-18(7-5-16)11-14(23)24;/h15H,1-11H2,(H,19,20)(H,21,22)(H,23,24);/q;+2
